US07812019B2
3-aminochroman hydrochloride (0.37 g, 2 mmol) was neutralized with aqueous sodium bicarbonate, extracted with diethyl ether, dried with magnesium sulfate, and the solvent evaporated to give 2-aminochroman.

reactant | 3-aminochroman hydrochloride | 2 mmol, 0.37 g | Cl.NC1COC2=CC=CC=C2C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-aminochroman | NC1OC2=CC=CC=C2CC1 | C9H11NO
